US05786359
To a solution of 2-amino-6-chloro-9-(4-hydroxybutyl)-8-oxo-7H-purine (0.8 g, 3.1 mM) in DMF (15 mL) was added NaH (0.12 g, 60% oil dispersion, 3 mM) all at once at zero degrees C. under nitrogen and stirred for 30 minutes. To this was added allyl bromide (0.37 g, 3.1 mM) and the resulting mixture was allowed to warm to room temperature and stirred overnight. Most of solvent was removed in vacuo and the residue was purified by column chromatography on silica gel (120 g, CH2Cl2 /CH3OH/conc. NH4OH, 100/5/0.1) to give 7-allyl-2-amino-6-chloro-9-(4-hydroxybutyl)-8-oxo-7H-purine as an off-white powder (40 percent) mp 132°-133° C. IR (KBr) 3320, 1715, 1640, 1585, 1460 cm-1. 1H NMR (DMSO-d6) δ 6.70 (bs, 2H, exchangeable, NH2), 5.95 (m, 1H), 3.70 (t:, J=6.5 Hz, 2H, NCH2), 3.35 (m, 2H, CH2OH), 1.50 (m, 4H, CH2CH2).

reactant | 2-amino-6-chloro-9-(4-hydroxybutyl)-8-oxo-7H-purine | 3.1 mM, 0.8 g | NC1=NC(=C2NC(N(C2=N1)CCCCO)=O)Cl | C9H12ClN5O2
reactant | NaH | 3 mM, 0.12 g | [H-].[Na+]
reactant | allyl bromide | 3.1 mM, 0.37 g | C(C=C)Br | C3H5Br
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 7-allyl-2-amino-6-chloro-9-(4-hydroxybutyl)-8-oxo-7H-purine | 40 percent | C(C=C)N1C(N(C2=NC(=NC(=C12)Cl)N)CCCCO)=O | C12H16ClN5O2
